US04159338
(F) 4-(4-Fluorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol
Alternatively, reaction of 63.4 g (0.27 mole) of 2-(4-fluorophenyl)-2-hydroxy-1-(2-thienyl)ethanone with 29.0 g (0.38 mole) of ammonium thiocyanate in 1-propanol gave 71.6 g of 4-(4-fluorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol, m.p. 275°-277° (Recrystallized from 1-butanol).

reactant | 2-(4-fluorophenyl)-2-hydroxy-1-(2-thienyl)ethanone | 0.27 mole, 63.4 g | FC1=CC=C(C=C1)C(C(=O)C=1SC=CC1)O | C12H9FO2S
reactant | ammonium thiocyanate | 0.38 mole, 29.0 g | [S-]C#N.[NH4+]
solvent | 1-propanol | C(CC)O | C3H8O
product | 4-(4-Fluorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol | FC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)S | C13H9FN2S2
